US08877774B2
Step 2. (4′-((1,3-Dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methanol
A mixture of 2-(4-bromobenzyl)-1,3-dioxolane (2.0 g, 8.2 mmol), 3-formylboronic acid (2.45 g, 16.4 mmol), tetrakis-(triphenylphosphine)palladium (0) (0.763 g, 0.66 mmol), and sodium carbonate (1.74 g, 16.4 mmol) in dioxan/water (15 mL/3 mL) in a microwave vessel was degassed in a stream of nitrogen for 10 minutes. The vessel was sealed and heated in the microwave at 125° C. for 30 minutes. The solvent was decanted off, and the solid residues washed with ethyl acetate. The organic phases were combined, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 50% ethyl acetate in iso-hexane to afford an oil. The oil was dissolved in methanol (25 mL) and cooled to 0° C. Sodium borohydride (0.393 g, 10.4 mmol) was added portion-wise, and the reaction mixture was stirred at 0° C. for 30 minutes followed by 1 hour at ambient temperature. The reaction mixture was quenched with water and extracted twice with ethyl acetate. The combined organic extracts were dried with anhydrous magnesium sulfate, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 100% ethyl acetate in iso-hexane to afford the title compound (1.16 g, 52%).

reactant | 2-(4-bromobenzyl)-1,3-dioxolane | 8.2 mmol, 2.0 g | BrC1=CC=C(CC2OCCO2)C=C1 | C10H11BrO2
reactant | 3-formylboronic acid | 16.4 mmol, 2.45 g | B(C1=CC(=CC=C1)C=O)(O)O | C7H7BO3
reactant | sodium carbonate | 16.4 mmol, 1.74 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Sodium borohydride | 10.4 mmol, 0.393 g | [BH4-].[Na+]
solvent | dioxan water | 15 mL | O1CCOCC1.O
solvent | methanol | 25 mL | CO | CH4O
product | (4′-((1,3-Dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methanol | 1.16 g, 52% | O1C(OCC1)CC1=CC=C(C=C1)C1=CC(=CC=C1)CO | C17H18O3
